US07572809B2
Similar procedure as described in example 376 was used, starting from (7-Bromo-1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and isopropanol to give (7-Bromo-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 391 (MH+).

reactant | (7-Bromo-1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | BrC1=C(C=C2C=C(N=C(C2=C1)Cl)NC1=NNC(=C1)C)OC | C14H12BrClN4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (7-Bromo-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | BrC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)OC | C17H19BrN4O2
